US06939866B2
After repetition of the previous reaction, a mixture of 2-amino-5-methoxy-4-(3-pyrrolidin-1-ylpropoxy)benzamide hydrochloride (5.92 g), Gold's reagent (3.5 g) and dioxane (50 ml) was heated to reflux for 5 hours. Acetic acid (0.7 ml) and sodium acetate (1.33 g) were added and the reaction mixture was heated to reflux for a further 5 hours. The mixture was allowed to cool to ambient temperature and evaporated The residue was dissolved in water, adjusted to pH 8 with 2N aqueous sodium hydroxide solution and purified on a Diaion HP20SS resin column eluting with methanol (gradient 0-50%) in water. The fractions containing product were concentrated by evaporation and then freeze dried to give 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)-3,4-dihydroquinazolin-4-one (4.55 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.9 (m, 2H), 2.0-2.1 (m, 2H), 2.2-2.3 (m, 2H), 3.05 (m, 2H), 3.34 (t, 2M), 3.6-3.7 (br s, 2H), 3.94 (s, 3H), 4.27 (t, 2H), 7.31 (s, 1H), 7.55 (s, 1H), 9.02 (s, 1H).

reactant | 2-amino-5-methoxy-4-(3-pyrrolidin-1-ylpropoxy)benzamide hydrochloride | 5.92 g | Cl.NC1=C(C(=O)N)C=C(C(=C1)OCCCN1CCCC1)OC
reactant | Gold's reagent | 3.5 g | CN(C)C=NC=[N+](C)C.[Cl-]
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | sodium acetate | 1.33 g | C(C)(=O)[O-].[Na+]
solvent | Acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)-3,4-dihydroquinazolin-4-one | 4.55 g | COC=1C=C2C(NC=NC2=CC1OCCCN1CCCC1)=O | C16H21N3O3
